* Z:\mnt\design.r\spice\examples\ADM7154-1.8.asc
V1 IN 0 2.9
C1 OUT 0 10µ
C2 N003 0 1µ
C3 N004 0 1µ
C4 N002 0 1µ
R1 IN N001 100K
Rload OUT 0 18
XU1 N004 OUT N002 0 N003 N003 N001 IN ADM7154_5 Vreg=2.6022 Vref=1.8154
.tran 5m startup
.lib ADM7154_5.sub
.backanno
.end
